US08372842B2
4N HCl in dioxane (5 mL) was added to (S)-tert-butyl 2-((S)-1-(4-chlorophenyl)-2-(4-(5-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-2-oxoethyl)pyrrolidine-1-carboxylate (68 mg, 0.13 mmol), and the mixture was stirred at room temperature. After 30 minutes, the solvent was removed under reduced pressure, and the resulting residue was triturated with ether. The solid material was filtered, washed with additional ether (2×2 mL) and dried under high vacuum for 24 hours to provide (S)-2-(4-chlorophenyl)-1-(4-(5-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-2-((S)-pyrrolidin-2-yl)ethanone dihydrochloride (62 mg, 0.12 mmol, 96% yield) as a solid. LCMS (APCI+) m/z 439.1 (M+H)+. NMR (400 Hz, DMSO-d6) δ 9.98 (brs, 1H), 9.06 (s, 1H), 8.23 (s, 1H), 7.49 (d, 2H), 7.43 (d, 2H), 4.56 (d, 1H), 4.03-3.96 (m, 2H), 3.93-3.87 (m, 3H), 3.71-3.65 (m, 1H), 3.64-3.57 (m, 2H), 3.50-3.46 (m, 1H), 3.19-3.13 (m, 2H), 2.31 (s, 3H), 1.97-1.89 (m, 1H), 1.78-1.70 (m, 1H), 1.63-1.52 (m, 2H).

reactant | HCl | 4N | Cl | ClH
reactant | (S)-tert-butyl 2-((S)-1-(4-chlorophenyl)-2-(4-(5-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-2-oxoethyl)pyrrolidine-1-carboxylate | 0.13 mmol, 68 mg | ClC1=CC=C(C=C1)[C@H](C(=O)N1CCN(CC1)C1=C2C(=NC=C1C)NN=C2)[C@H]2N(CCC2)C(=O)OC(C)(C)C | C28H35ClN6O3
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(4-chlorophenyl)-1-(4-(5-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-2-((S)-pyrrolidin-2-yl)ethanone dihydrochloride | 0.12 mmol, 62 mg, 96% yield | Cl.Cl.ClC1=CC=C(C=C1)[C@H](C(=O)N1CCN(CC1)C1=C2C(=NC=C1C)NN=C2)[C@H]2NCCC2 | InChI=1S/C23H27ClN6O.2ClH/c1-15-13-26-22-18(14-27-28-22)21(15)29-9-11-30(12-10-29)23(31)20(19-3-2-8-25-19)16-4-6-17(24)7-5-16;;/h4-7,13-14,19-20,25H,2-3,8-12H2,1H3,(H,26,27,28);2*1H/t19-,20-;;/m0../s1
